simulator lang=spectre
global 0

ahdl_include "../submission/bipolar_dac_4b_continuous.va"

Vd3 (vd3 0) vsource type=pwl wave=[0 0 10n 0 10.2n 0 20n 0.9 20.2n 0.9 30n 0.9 30.2n 0.9 45n 0.9]
Vd2 (vd2 0) vsource type=pwl wave=[0 0 10n 0.9 10.2n 0.9 20n 0 20.2n 0 30n 0.9 30.2n 0.9 45n 0.9]
Vd1 (vd1 0) vsource type=pwl wave=[0 0 10n 0 10.2n 0 20n 0.9 20.2n 0.9 30n 0.9 30.2n 0.9 45n 0.9]
Vd0 (vd0 0) vsource type=pwl wave=[0 0 10n 0.9 10.2n 0.9 20n 0 20.2n 0 30n 0.9 30.2n 0.9 45n 0.9]
XDUT (vd3 vd2 vd1 vd0 vout) bipolar_dac_4b_continuous

tran tran stop=42n maxstep=50p
save vd3 vd2 vd1 vd0 vout
